US07531545B2
To a solution of 4,N-dicyclohexyl-N-(2-hydroxy-ethyl)-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyramide (0.1 g, 0.18 mmol) in MeOH (10 mL) was added a catalytic amount of Pd—C (10% on activated carbon) under N2, and the reaction mixture was subjected to hydrogenation under 5 psi for one hour. The catalyst was filtered out, and the MeOH was evaporated to yield a residue which was purified by preparative TLC (100% EtOAc) to yield 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4,N-dicyclohexyl-N-(2-hydroxy-ethyl)-butyramide as an oil.

reactant | 4,N-dicyclohexyl-N-(2-hydroxy-ethyl)-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyramide | 0.18 mmol, 0.1 g | C1(CCCCC1)C(CCC(=O)N(CCO)C1CCCCC1)NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1 | C30H42N4O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4,N-dicyclohexyl-N-(2-hydroxy-ethyl)-butyramide | NC=1C(=CC(=NC1)OC1=CC=CC=C1)CNC(CCC(=O)N(CCO)C1CCCCC1)C1CCCCC1 | C30H44N4O3
